US06821967B2
9-[4-(4-benzothiazol-2-yl-[1.4]diazepan-1-yl)-butyl]-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 2-[1.4]diazepan-1-yl-benzothiazole.

reactant | 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO2
reactant | 2-[1.4]diazepan-1-yl-benzothiazole | N1(CCNCCC1)C=1SC2=C(N1)C=CC=C2 | C12H15N3S
product | 9-[4-(4-benzothiazol-2-yl-[1.4]diazepan-1-yl)-butyl]-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCN1CCN(CCC1)C=1SC2=C(N1)C=CC=C2)(F)F | C32H33F3N4O2S
